US08426447B2
A resealable tube was charged with 1-chloro-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridin-10-one (0.320 g, 1.033 mmol), 3,3-dimethyl-1-butanol (0.260 mL, 2.066 mmol), cesium carbonate (0.842 g, 2.58 mmol), and acetonitrile (10.0 mL). The system was flushed with argon, the tube was sealed, and the mixture stirred at 100° C. for 5 h. The material was partitioned between dichloromethane and water. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford a brown solid. This solid was purified via column chromatography on silica gel (RediSep 120 g column, gradient elution with 50-100% ethyl acetate-hexane) to afford 1-(3,3-dimethylbutoxy)-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridin-10-one as a white solid. MS m/z=376.2 [M+H]+. Calcd for C22H21N3O3: 375.4.

reactant | 1-chloro-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridin-10-one | 1.033 mmol, 0.320 g | ClC1=NC=CC2=C1C(C=1C=C(C=CC1O2)C=2C=NC=NC2)=O | C16H8ClN3O2
reactant | 3,3-dimethyl-1-butanol | 2.066 mmol, 0.260 mL | CC(CCO)(C)C | C6H14O
reactant | cesium carbonate | 2.58 mmol, 0.842 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
product | 1-(3,3-dimethylbutoxy)-8-(pyrimidin-5-yl)-10H-chromeno[3,2-c]pyridin-10-one | CC(CCOC1=NC=CC2=C1C(C=1C=C(C=CC1O2)C=2C=NC=NC2)=O)(C)C | C22H21N3O3
